US06756378B2
To a stirred solution of 2-benzyloxynitrobenzene (9.92 g, 43.3 mmol) and NiCl2 (20.3 g, 157 mmol) in MeOH (350 mL) was added portionwise NaBH4 (8.09 g, 214 mmol) at 0° C. After disappearing of the starting material (monitored by TLC), the mixture was evaporated off. The black precipitate was dissolved in 1N HCl, then acidic solution was alkalified by the addition of 1N NaOH and extracted with EtOAc. The extracts were washed brine, dried over Na2SO4, and concentrated to dryness. Chromatography of the residue with CHCl3 as eluent gave 2-benzyloxy aniline (8.60 g, 100%) as a reddish oil. 1H-NMR (CDCl3) δ3.71 (broad s, 2H), 5.06 (s, 2H), 6.68-6.86 (m, 4H), 7.32-7.44 (m, 5H); FAB-MS m/z 200 (M++1).

reactant | 2-benzyloxynitrobenzene | 43.3 mmol, 9.92 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)[N+](=O)[O-] | C13H11NO3
reactant | NaBH4 | 214 mmol, 8.09 g | [BH4-].[Na+]
solvent | MeOH | 350 mL | CO | CH4O
catalyst | NiCl2 | 157 mmol, 20.3 g | Cl[Ni]Cl
product | 2-benzyloxy aniline | 8.60 g, 100% | C(C1=CC=CC=C1)OC1=C(N)C=CC=C1 | C13H13NO
